US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (75 mg, 0.22 mmol) in EtOAc (5 ml), was added 2-bromo-1-(4-(diethylamino)phenyl)ethanone (66.3 mg, 0.24 mmol), and the reaction was stirred at room temperature for 15 hours. The solvent was evaporated and the crude was triturated with i-Pr2O to obtain (R)-1-(2-(4-(diethylamino)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (129.7 mg, 96% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.22 mmol, 75 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 2-bromo-1-(4-(diethylamino)phenyl)ethanone | 0.24 mmol, 66.3 mg | BrCC(=O)C1=CC=C(C=C1)N(CC)CC | C12H16BrNO
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(4-(diethylamino)phenyl)-2-oxoethyl)-3-((R)-2-phenyl-2(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 129.7 mg, 96% yield | [Br-].C(C)N(C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O)CC | InChI=1S/C33H40N3O3.BrH/c1-3-35(4-2)29-17-15-25(16-18-29)30(37)23-36-21-19-26(20-22-36)31(24-36)39-33(38)32(27-11-7-5-8-12-27)34-28-13-9-6-10-14-28;/h5-18,26,31-32,34H,3-4,19-24H2,1-2H3;1H/q+1;/p-1/t26?,31-,32+,36?;/m0./s1
